US04060603
iii. trans-3-Methyl-L-prolineamide-hydrochloride
A solution of hydrogen chloride in dioxan (7.5 N, 5 ml) was added to a solution of N-t-butoxycarbonyl-trans-3-methyl-L-prolineamide (0.65 g) in 10 ml dioxan. After 2 hours the crystalline solid was filtered and recrystallised from ethanol/ether to give the product (0.47 g), m.p. 235°-237° [α]D20 -14.8° (c, 1.0, water).

reactant | hydrogen chloride | Cl | ClH
reactant | N-t-butoxycarbonyl-trans-3-methyl-L-prolineamide | 0.65 g | C(C)(C)(C)OC(=O)NC([C@H]1NCC[C@@H]1C)=O | C11H20N2O3
solvent | dioxan | 7.5 N, 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | trans-3-Methyl-L-prolineamide-hydrochloride | 0.47 g | Cl.C[C@@H]1[C@H](NCC1)C(=O)N | InChI=1S/C6H12N2O.ClH/c1-4-2-3-8-5(4)6(7)9;/h4-5,8H,2-3H2,1H3,(H2,7,9);1H/t4-,5-;/m0./s1
